US07858785B2
(ii) (4-Fluorophenyl)(3-(2-(pyrrolidin-1-yl)ethyl)thiophen-2-yl)methanol
A solution of 1-(2-(thiophen-3-yl)ethyl)pyrrolidine (1.0 g, 5.5 mmol) in THF (11.0 mL) was cooled to −78° C. in a dry-ice acetone bath before dropwise addition of n-butyllithium solution (2.5 M in hexanes, 2.4 mL, 6.0 mmol). The reaction mixture was stirred at −78° C. for 1 h and then neat p-fluorobenzaldehyde (0.65 mL, 6.1 mmol) was added dropwise via syringe. The mixture was allowed to warm to room temperature over 16 h and subsequently diluted with saturated aqueous NaHCO3 and EtOAc. The organic layer was separated, washed with brine, and dried over Na2SO4. The residue remaining after solvent removal in vacuo was purified by flash chromatography to afford the desired alkylation product as a white solid (353 mg, 1.16 mmol, 21% yield). MS (M+H)+ 306.

reactant | 1-(2-(thiophen-3-yl)ethyl)pyrrolidine | 5.5 mmol, 1.0 g | S1C=C(C=C1)CCN1CCCC1 | C10H15NS
reactant | n-butyllithium | 6.0 mmol, 2.5 M, 2.4 mL | C(CCC)[Li]
reactant | p-fluorobenzaldehyde | 6.1 mmol, 0.65 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | THF | 11.0 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Fluorophenyl)(3-(2-(pyrrolidin-1-yl)ethyl)thiophen-2-yl)methanol | 1.16 mmol, 353 mg, 21% yield | FC1=CC=C(C=C1)C(O)C=1SC=CC1CCN1CCCC1 | C17H20FNOS
